US05521147
To a stirred solution of 12.0 grams (0.071 mole) of 3-(3-fluorophenoxy)propanol in 150 mL of acetone Jones reagent (a mixture of chromic acid and sulfuric acid in water) was added dropwise until an orange color persisted in the reaction mixture. Isopropanol was then added dropwise until the color of the reaction mixture became blue/green. The reaction mixture was then slurried with silica gel and filtered. The filter cake was washed with ethyl acetate. The combined wash and filtrate were concentrated under reduced pressure to a residue, which was dissolved in methylene chloride and washed with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 12.8 grams of 3-(3-fluorophenoxy)propanecarboxylic acid. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(3-fluorophenoxy)propanol | 0.071 mole, 12.0 grams | FC=1C=C(OCCCO)C=CC1 | C9H11FO2
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(3-fluorophenoxy)propanecarboxylic acid | 12.8 grams | FC=1C=C(OCCCC(=O)O)C=CC1 | C10H11FO3
